US07622583B2
To a mixture of 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid (112 mg, 0.244 mmol), 100 mg (0.70 mmol) of 3,4-dihydro-2H-benzo[1,4]oxazine, and 0.174 mL (1.0 mmol) of DIEA in CH2Cl2 (2.5 mL) was added 0.19 mL 1-propanephosphonic acid cyclic anhydride (50% in ethyl acetate). After 3 h the reaction mixture was directly purified via flash column (50% EtOAc in hexane) to afford 79 mg of 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide as a white powder. MS m/z: 576.38 (M+H).

reactant | 5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid | 0.244 mmol, 112 mg | ClC=1C=C(C(=NC1)C(=O)O)N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H11Cl2F3N2O5S
reactant | 3,4-dihydro-2H-benzo[1,4]oxazine | 0.70 mmol, 100 mg | O1CCNC2=C1C=CC=C2 | C8H9NO
reactant | DIEA | 1.0 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.19 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-[5-chloro-2-(2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 79 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)N1CCOC2=C1C=CC=C2)C(F)(F)F | C23H18Cl2F3N3O5S
